US07902219B2
To a solution of 0.283 g of ethyl 6-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate in 2 mL of ethanol is added 1 mL of 1 N sodium hydroxide. The reaction mixture is refluxed for 3 hours. After cooling, the reaction medium is acidified with acetic acid. The solid formed is filtered off, washed with water and then dried under vacuum to give 0.195 g of 6-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylic acid in the form of a white solid.

reactant | ethyl 6-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate | 0.283 g | BrC=1C=CC=2N(C1C)C=C(N2)C(=O)OCC | C11H11BrN2O2
reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 6-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylic acid | 0.195 g | BrC=1C=CC=2N(C1C)C=C(N2)C(=O)O | C9H7BrN2O2
